US07772253B2
2.20 g (5.4 mmol) of 4-(3-carbamoylmethoxy-5-methoxy-benzoylamino)-piperidine-1-carboxylic acid tert-butyl ester was suspended under argon in 40 mL of EtOH at rt; while stirring, 6.75 mL of HCl/dioxane (4 molar) was added; the heterogeneous reaction mixture was heated up to reflux to achieve a clear solution. After cooling down to rt, the solvents were removed by evaporation i.V. and the residue was dried in high vacuum at rt for 5 hours. This crude product was recrystallised from MeCN to yield 1.53 g of 3-carbamoylmethoxy-5-methoxy-N-piperidin-4-yl-benzamide hydrochloride as colorless solid [MS: 308.3 (MH+)]; the mother liquor contained 0.80 g of [3-methoxy-5-(piperidin-4-ylcarbamoyl)-phenoxy]-acetic acid ethyl ester hydrochloride as light yellow amorphous solid. MS: 337.3 (MH+).

reactant | 4-(3-carbamoylmethoxy-5-methoxy-benzoylamino)-piperidine-1-carboxylic acid tert-butyl ester | 5.4 mmol, 2.20 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(C1=CC(=CC(=C1)OC)OCC(N)=O)=O | C20H29N3O6
reactant | HCl dioxane | 4 molar, 6.75 mL | Cl.O1CCOCC1
solvent | EtOH | 40 mL | CCO | C2H6O
product | 3-carbamoylmethoxy-5-methoxy-N-piperidin-4-yl-benzamide hydrochloride | 1.53 g | Cl.C(N)(=O)COC=1C=C(C(=O)NC2CCNCC2)C=C(C1)OC | InChI=1S/C15H21N3O4.ClH/c1-21-12-6-10(7-13(8-12)22-9-14(16)19)15(20)18-11-2-4-17-5-3-11;/h6-8,11,17H,2-5,9H2,1H3,(H2,16,19)(H,18,20);1H
